US07342116B2
2.27 g (16.7 mmol) of pentaerythritol and 32.6 g of pyridine were placed in a 100 ml reaction vessel and 17.7 g (100 mmol) of benzenesulfonyl chloride was dropped over 0.7 hour while stirring at a temperature of 2 to 4° C. in a nitrogen atmosphere. After dropping, the temperature was raised to 15° C. and reaction was conducted for 4 hours. In a separate 300 ml reaction vessel, the reaction solution was dropped in an 11.3% by weight aqueous solution of hydrochloric acid while stirring at a temperature of 10 to 23° C. After dropping, the water phase was separated. The crystal precipitated by dissolving the oily matter by heating in 48 g of a mixed solution of acetone:methanol (weight ratio 3:1) and then concentrating was separated by filtration, washed and dried under reduced pressure to obtain 9.08 g of 2,2-bis(benzenesulfonyloxymethyl)-1,3-propanediol dibenzenesulfonate (yield: 78.0% [based on pentaerythritol]).

reactant | pentaerythritol | 16.7 mmol, 2.27 g | OCC(CO)(CO)CO | C5H12O4
reactant | benzenesulfonyl chloride | 100 mmol, 17.7 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 32.6 g | N1=CC=CC=C1 | C5H5N
product | 2,2-bis(benzenesulfonyloxymethyl)-1,3-propanediol dibenzenesulfonate | 9.08 g, yield: 78.0% | C1(=CC=CC=C1)S(=O)(=O)OCC(COS(=O)(=O)C1=CC=CC=C1)(COS(=O)(=O)C1=CC=CC=C1)COS(=O)(=O)C1=CC=CC=C1 | C29H28O12S4
